US04326881
The mixture of 1 g of dimethyl 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylate, 1 g of sodium hydroxide, 30 ml of ethanol and 18 ml of water was heated for 90 minutes under reflux. After the reaction, ethanol was removed by distillation under reduced pressure and the residue was washed with ether. The aqueous layer was acidified with hydrochloric acid, and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dehydrated and evaporated to dryness under reduced pressure to obtain 0.93 g of 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylic acid (white crystal, d.p. 273° C.).

reactant | dimethyl 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylate | 1 g | ClC=1C(=C(NC1C(=O)OC)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C14H10Cl3NO4
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | water | 18 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-chloro-3-(2,3-dichlorophenyl)pyrol-2,5-dicarboxylic acid | 0.93 g | ClC=1C(=C(NC1C(=O)O)C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C12H6Cl3NO4
